US05994343
Step 2: 1-(methoxycarbonylmethyl)-5-nitro-4-naphthalene sulfonic acid
Potassium 1-(methoxycarbonylmethyl)-4-naphthalene sulfonate (10 g, 31.4 mmol) was added portionwise over 30 minutes to 90% nitric acid, which was cooled in a methanol/ice bath to approximately -15° C. After 2 hours, the bath temperature had reached -10° C. and diethyl ether (200 mL) was added to the mixture. The precipitated solid was filtered, washed with ether (100 mL) and isopropanol (20 mL), and dried under a stream of nitrogen to give the title compound as an approximately 70:30 mixture of the 5- and 8-nitro isomers (approximately 12 g).

reactant | Potassium 1-(methoxycarbonylmethyl)-4-naphthalene sulfonate | 31.4 mmol, 10 g | COC(=O)CC1=CC=C(C2=CC=CC=C12)S(=O)(=O)[O-].[K+]
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
solvent | diethyl ether | 200 mL | C(C)OCC | C4H10O
product | 1-(methoxycarbonylmethyl)-5-nitro-4-naphthalene sulfonic acid | COC(=O)CC1=CC=C(C2=C(C=CC=C12)[N+](=O)[O-])S(=O)(=O)O | C13H11NO7S
